US04937246
A mixture of veratric acid (1.0 g), toluene (10 ml) and thionyl chloride (2 ml) is heated under reflux for one hour, and the reaction mixture is concentrated under reduced pressure. Veratryl chloride thus obtained was dissolved in N,N-dimethylformamide (5 ml). The solution is added dropwise, while stirring under ice-cooling, to a mixture of 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride (1.96 g), triethylamine (2.2 g) and N,N-dimethylformamide (8 ml) in the course of 3 minutes, followed by stirring for two hours at room temperature. After addition of water (50 ml), the reaction mixture is extracted twice with ethyl acetate (40 ml each portion). The organic layers are combined, washed with water, dried, and concentrated under reduced pressure. The residue is purified by means of a silica gel column chromatography (eluent, hexane:ethyl acetate:acetone=2:3:1). The oily product thus obtained is dissolved in ethyl acetate (10 ml). To the solution is added a hydrogen chloride-ethanol solution (5N) (1 ml). Resultant precipitates are recrystallized from acetone to afford 1-(3,4-dimethoxybenzoyl)-4 -(3,4,5-trimethoxybenzyl)piperazine hydrochloride (1.6 g) as colorless powdery crystals, m.p. 212°-215° C.

reactant | veratric acid | 1.0 g | C(C1=CC(OC)=C(OC)C=C1)(=O)O | C9H10O4
reactant | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | Veratryl chloride | C(C1=CC(OC)=C(OC)C=C1)Cl | C9H11ClO2
